US06740670B2
N-phenyl-N-methyl-2-benzyloxy-5-formylbenzamide
N-Methylaniline (0.18 mL, 1.68 mmol, 2 eq) was added to a solution of 2-benzyloxy-5-formylbenzoic acid (200 mg, 0.84 mmol, 1 eq), 1-hydroxy-7-azabenzotriazole (230 mg, 1.68 mmol, 2 eq), and N-methylmorpholine (0.25 mL, 2.29 mmol, 2.73 eq) in N,N-dimethylformamide (4 mL). To this was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (320 mg, 1.68 mmol, 2 eq) and the reaction mixture stirred overnight. The reaction mixture was diluted with ethyl acetate (20 mL) and washed sequentially with 10% HCl (3×20 mL), brine (20 mL), saturated aqueous sodium bicarbonate (2×20 mL) and brine (20 mL). The organic solution was dried over sodium sulfate and evaporated in vacuo to give a yellow oil (270 mg, 99%). RF (petroleum ether:ethyl acetate 1:1) 0.73. 1H NMR (CDCl3) δ9.79 (s, 1H, O═C—H), 5.01 (s, 2H, CH2Ph), 3.47 (s, 3H, CH3).

reactant | N-Methylaniline | 1.68 mmol, 0.18 mL, 2 eq | CNC1=CC=CC=C1 | C7H9N
reactant | 2-benzyloxy-5-formylbenzoic acid | 0.84 mmol, 200 mg, 1 eq | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)C=O | C15H12O4
reactant | 1-hydroxy-7-azabenzotriazole | 1.68 mmol, 230 mg, 2 eq | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 2.29 mmol, 0.25 mL, 2.73 eq | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.68 mmol, 320 mg, 2 eq | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-phenyl-N-methyl-2-benzyloxy-5-formylbenzamide | 270 mg, 99% | C1(=CC=CC=C1)N(C(C1=C(C=CC(=C1)C=O)OCC1=CC=CC=C1)=O)C | C22H19NO3
